US04332745
8.15 g (0.12 mol) of sodium ethylate in 30 ml of ethanol were added dropwise to a solution of 24.8 g (0.1 mol) of 3-bromo-3-cyano-2,2-dimethyl-propane-1-carboxylic acid ethyl ester in 50 ml of ethanol. The mixture was subsequently stirred at 50°-60° C. for 3 hours. 200 ml of water were then added and the reaction mixture was neutralized with HCl and extracted twice with 50 ml of methylene chloride each time. The combined methylene chloride extracts were washed twice with 50 ml of H2O each time, dried over Na2SO4 and then concentrated. The residue was fractionated. 11.5 (69% theory) of 2-cyano-3,3-dimethyl-cyclopropane-1-carboxylic acid ethyl ester were obtained in the form of a colorless oil of boiling point 68°-72° C./2 mm Hg.

reactant | sodium ethylate | 0.12 mol, 8.15 g | CC[O-].[Na+]
reactant | 3-bromo-3-cyano-2,2-dimethyl-propane-1-carboxylic acid ethyl ester | 0.1 mol, 24.8 g | C(C)OC(=O)CC(C(C#N)Br)(C)C | C9H14BrNO2
reactant | water | 200 ml | O | H2O
reactant | HCl | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-cyano-3,3-dimethyl-cyclopropane-1-carboxylic acid ethyl ester | 69% | C(C)OC(=O)C1C(C1(C)C)C#N | C9H13NO2
